US07132426B2
Preparation of {4-[1-(4-Methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidin-1-yl}-(5-morpholin-4-ylmethyl-furan-2-yl)-methanone (Compound A116)
5-Morpholin-4-ylmethyl-furan-2-carboxylic acid (0.12 mmol, 25 mg), and isopropylchloroformate (0.12 mmol, 17 μL) and triethylamine (0.12 mmol, 17 μL) were dissolved in DMSO (2 mL) and stirred for 30 minutes at room temperature. Then, 1-(4-methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine (0.12 mmol, 50 mg) and excess triethylamine were added. The mixture was heated in a microwave for 5 minutes at 120° C. The progress of the reaction was monitored by thin layer chromatography and LCMS. Purification by HPLC provided compound A116 as a white solid. LCMS (ESI), m/z 567.3 (MH+, 100%).

reactant | 5-Morpholin-4-ylmethyl-furan-2-carboxylic acid | 0.12 mmol, 25 mg | N1(CCOCC1)CC1=CC=C(O1)C(=O)O | C10H13NO4
reactant | isopropylchloroformate | 0.12 mmol, 17 μL | C(C)(C)OC(=O)Cl | C4H7ClO2
reactant | triethylamine | 0.12 mmol, 17 μL | C(C)N(CC)CC | C6H15N
reactant | 1-(4-methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine | 0.12 mmol, 50 mg | CS(=O)(=O)C1=CC=C(C=C1)N1N=CC=2C1=NC=NC2OC2CCNCC2 | C17H19N5O3S
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | {4-[1-(4-Methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidin-1-yl}-(5-morpholin-4-ylmethyl-furan-2-yl)-methanone | CS(=O)(=O)C1=CC=C(C=C1)N1N=CC=2C1=NC=NC2OC2CCN(CC2)C(=O)C=2OC(=CC2)CN2CCOCC2 | C27H30N6O6S
